US06352976B1
1.7 Synthesis of 2-mercapto-pentanoyl-(L)-homophenylalanyl-(L)-phenylalanine
Combine 2-(4-methoxybenzylthio)-pentanoyl-(L)-homophenylalanyl-(L)-phenylalanine t-butyl ester (0.20 g, 0.33 mmol), mercury (II) acetate (0.134 g, 0.42 mmol), and anisole (0.37 mL, 3.4 mmol) in dichloromethane (9 mL). Cool in an ice bath and degas by repeatedly applying vacuum and filling the vessel with nitrogen, Add trifluoroacetic acid (4 mL). After 1 hour, warm to ambient temperature. After 3 hours, purge with hydrogen sulfide (gas) for about 10 minutes. Filter and evaporate in vacuo to give a residue. Repeatedly, combine the residue and carbon tetrachloride and evaporate in vacuo to give a residue. Triturate the residue with hexane to give the title compound as a solid (85 mg, 57%).

reactant | 2-(4-methoxybenzylthio)-pentanoyl-(L)-homophenylalanyl-(L)-phenylalanine t-butyl ester | 0.33 mmol, 0.20 g | C(C)(C)(C)OC([C@@H](NC([C@@H](NC(C(CCC)SCC1=CC=C(C=C1)OC)=O)CCC1=CC=CC=C1)=O)CC1=CC=CC=C1)=O | C36H46N2O5S
reactant | anisole | 3.4 mmol, 0.37 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | 9 mL | ClCCl | CH2Cl2
catalyst | mercury (II) acetate | 0.42 mmol, 0.134 g | C(C)(=O)[O-].[Hg+2].C(C)(=O)[O-]
product | 2-mercapto-pentanoyl-(L)-homophenylalanyl-(L)-phenylalanine | 85 mg, 57% | SC(C(=O)N[C@@H](CCC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)CCC | C24H30N2O4S
